US07915250B2
1-(Diphenylmethyl)azetidin-3-one (600 mg, 2.53 mmol), was dissolved in dichloromethane (1 mL) and treated with triethylamine (0.5 mL, 3.59 mmol) and trimethylsilylcyanide (0.8 mL, 6.01 mmol) at ambient for 2 h and then the mixture was concentrated in vacuo to afford 1-(diphenylmethyl)-3-[(trimethylsilyl)oxy]azetidine-3-carbonitrile (774 mg, 2.30 mmol, 91% yield) as a yellow solid. 1-(diphenylmethyl)-3-[(trimethylsilyl)oxy]azetidine-3-carbonitrile (250 mg, 0.744 mmol) was dissolved in dichloromethane (2 mL) at 0° C. and concentrated sulfuric acid (0.2 mL) was added dropwise. The mixture was stirred at ambient for 2 h and then was cooled to 0° C. and 25% ammonium hydroxide solution was added carefully dropwise to pH ˜10-11. The mixture was extracted twice with dichloromethane. The combined organic portion was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to afford a residue which was triturated with hexanes/ether to afford 1-(diphenylmethyl)-3-hydroxyazetidine-3-carboxamide (160 mg, 0.567 mmol, 76% yield) as an off-white solid: 1H NMR (400 MHz, CDCl3): 7.92 (br s, 1H), 7.39-7.34 (m, 4H), 7.33-7.27 (m, 4H), 7.27-7.19 (m, 2H), 5.61 (br s, 1H), 4.45 (s, 1H), 4.34 (s, 1H), 3.50 (dd, 2H), 3.20 (dd, 2H); MS (EI) for C17H18N2O2: 283 (MH+).

reactant | 1-(Diphenylmethyl)azetidin-3-one | 2.53 mmol, 600 mg | C1(=CC=CC=C1)C(N1CC(C1)=O)C1=CC=CC=C1 | C16H15NO
reactant | triethylamine | 3.59 mmol, 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | trimethylsilylcyanide | 6.01 mmol, 0.8 mL | C[Si](C)(C)C#N | C4H9NSi
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 1-(diphenylmethyl)-3-[(trimethylsilyl)oxy]azetidine-3-carbonitrile | 2.30 mmol, 774 mg, 91% yield | C1(=CC=CC=C1)C(N1CC(C1)(C#N)O[Si](C)(C)C)C1=CC=CC=C1 | C20H24N2OSi
